US09388189B2
(S)-2-(1-((6-Amino-5-(3-hydroxyphenyl)pyrimidin-4-yl)amino)ethyl)-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-2-(1-((6-Amino-5-iodopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (134 mg, 0.28 mol) was treated with 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (94 mg, 0.43 mmol), 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (25 mg, 0.03 mol) and sodium carbonate (2M, 425 μl, 0.85 mol) according to the method described in Example 3 to give 26 mg (21% yield) of the title compound as a white solid. Purity 98%.

reactant | (S)-2-(1-((6-Amino-5-iodopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.28 mol, 134 mg | NC1=C(C(=NC=N1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C)I | C19H18IN7O
reactant | 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.43 mmol, 94 mg | CC1(OB(OC1(C)C)C=1C=C(C=CC1)O)C | C12H17BO3
reactant | sodium carbonate | 0.85 mol, 2M, 425 μl | C([O-])([O-])=O.[Na+].[Na+]
product | (S)-2-(1-((6-Amino-5-(3-hydroxyphenyl)pyrimidin-4-yl)amino)ethyl)-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 26 mg, 21% yield | NC1=C(C(=NC=N1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=CC=C2)C2=CC(=CC=C2)O | C24H21N7O2
